US05268380
A mixture of 2.3 parts of 6-(1-chloroethyl)-3,4-dihydro-2 (1H)-quinolinone hydrochloride, 24 parts of acetonitrile, 7.7 parts of dimethyl sulfoxide and 3.8 parts of 1H-imidazole was stirred overnight at 60°-70° C. The reaction mixture was poured into water, extracted and further purified according similar procedures as described in example 12, yielding 1.2 parts (53.5%) of 3,4-dihydro-6-[1-(1H-imidazol-1-yl)ethyl]-2(1H)-quinolinone; mp. 184.8° C. (compound 21).

reactant | 6-(1-chloroethyl)-3,4-dihydro-2 (1H)-quinolinone hydrochloride | Cl.ClC(C)C=1C=C2CCC(NC2=CC1)=O
reactant | acetonitrile | C(C)#N | C2H3N
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
reactant | 1H-imidazole | N1C=NC=C1 | C3H4N2
solvent | water | O | H2O
product | 3,4-dihydro-6-[1-(1H-imidazol-1-yl)ethyl]-2(1H)-quinolinone | 53.5% | N1(C=NC=C1)C(C)C=1C=C2CCC(NC2=CC1)=O | C14H15N3O
